US05922771
N-[2-(5-Methoxy-1H-inden-3-yl)ethyl]propionamide
Using (E)-2-(6-methoxyindan-1-ylidene)ethylamine, the procedure of Reference Example 14 was otherwise repeated to provide 2-(5-methoxy-1H-inden-3-yl)ethylamine hydrochloride. Then, starting with this 2-(5-methoxy-1H-inden-3-yl)ethylamine hydrochloride and propionyl chloride, the title compound was synthesized in otherwise the same manner as Example 8 (yield 86%).

reactant | 2-(5-methoxy-1H-inden-3-yl)ethylamine hydrochloride | Cl.COC=1C=C2C(=CCC2=CC1)CCN
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
product | N-[2-(5-Methoxy-1H-inden-3-yl)ethyl]propionamide | COC=1C=C2C(=CCC2=CC1)CCNC(CC)=O | C15H19NO2
